US05075476
One hundred ml of dichloromethane and 20.27 g (0.1 mol) of p-methylthiophenyl chloroformate prepared in the same manner as in Example 1 were placed in a flask, and 50 ml of a dichloromethane solution containing 8.15 g (0.1 mol) of tert-amyl alcohol and 8.70 g (0.11 mol) of pyridine was dropped thereto at room temperature. The resulting mixture was then stirred for two hours. The reaction solution was washed with water to remove pyridine hydrochlorate, and the organic layer was concentrated under reduced pressure. Finally excessive pyridine was removed in vacuum whereupon 5.09 g of the desired product, tert-amyl p-methylthiophenyl carbonate was obtained as an oily material (yield 100%).

reactant | p-methylthiophenyl chloroformate | 0.1 mol, 20.27 g | ClC(=O)OC1=CC=C(C=C1)SC | C8H7ClO2S
reactant | tert-amyl alcohol | 0.1 mol, 8.15 g | C(C)(C)(CC)O | C5H12O
reactant | pyridine | 0.11 mol, 8.70 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | One hundred ml | ClCCl | CH2Cl2
product | tert-amyl p-methylthiophenyl carbonate | C(OC(C)(C)CC)(OC1=CC=C(C=C1)SC)=O | C13H18O3S
